US06982348B2
2) methyl 4-[(1RS,2SR)-2-[(6,7-dihydro-5H-benzo[a]cyclohepten-1-ylcarbonyl)amino]-1-hydroxy-3-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]propyl]benzoate
While stirring methyl 4-[(1RS,2SR)-2-amino-1-hydroxy-3-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]propyl]benzoate (10.80 g, 26.91 mmol), 6,7-dihydro-5H-benzo[a]cycloheptene-1-carboxylic acid (5.06 g, 26.9 mmol) and 1-hydroxybenzotriazole hydrate (4.12 g, 26.9 mmol) in acetonitrile (10 ml), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (5.16 g, 26.9 mmol) was added and the mixture was stirred overnight at room temperature. The reaction solution was diluted with ethyl acetate, washed with aqueous sodium hydrogen carbonate solution, dried over anhydrous magnesium sulfate and passed through silica gel. The solvent was evaporated under reduced pressure and the obtained residue was crystallized from diisopropyl ether to give the objective substance.

reactant | methyl 4-[(1RS,2SR)-2-amino-1-hydroxy-3-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]propyl]benzoate | 26.91 mmol, 10.80 g | NC(C(O)C1=CC=C(C(=O)OC)C=C1)CC1=CC(=CC=C1)OC(C(F)F)(F)F | C19H19F4NO4
reactant | 6,7-dihydro-5H-benzo[a]cycloheptene-1-carboxylic acid | 26.9 mmol, 5.06 g | C=1(C=CC=C2C1C=CCCC2)C(=O)O | C12H12O2
reactant | 1-hydroxybenzotriazole hydrate | 26.9 mmol, 4.12 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 26.9 mmol, 5.16 g | Cl.C(C)N=C=NCCCN(C)C
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 4-[(1RS,2SR)-2-[(6,7-dihydro-5H-benzo[a]cyclohepten-1-ylcarbonyl)amino]-1-hydroxy-3-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]propyl]benzoate | C1(=CC=CC2=C1C=CCCC2)C(=O)NC(C(O)C2=CC=C(C(=O)OC)C=C2)CC2=CC(=CC=C2)OC(C(F)F)(F)F | C31H29F4NO5
